US06903086B2
To a solution of 4-amino-biphenyl-3-carbonitrile (1.2 g, 6.33 mmol) and pyridine (2 mL, 25.3 mmol) was added 20% phosgene in toluene (5.7 mL(10.8 mmol) and the mixture was heated to 90° C. for 2 hrs. The mixture was filtered and the filtrate was concentrated to dryness. The crude material was dissolved in THF, and (5-phenyl-benzofuran-2-yl)-methanol (0.52 g, 2.3 mmol) and triethylamine (0.70 g, 6.9 mmol) were added. The mixture was heated at 50° C. for 15 h. The solvent was evaporated to dryness. Purification by chromatography gave 0.78 g of 3-cyano-biphenyl-4-yl)-carbamic acid-5-phenyl-benzofuran-2-yl-methyl ester as a light yellow solid.

reactant | 4-amino-biphenyl-3-carbonitrile | 6.33 mmol, 1.2 g | NC1=C(C=C(C=C1)C1=CC=CC=C1)C#N | C13H10N2
reactant | pyridine | 25.3 mmol, 2 mL | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | (5-phenyl-benzofuran-2-yl)-methanol | 2.3 mmol, 0.52 g | C1(=CC=CC=C1)C=1C=CC2=C(C=C(O2)CO)C1 | C15H12O2
reactant | triethylamine | 6.9 mmol, 0.70 g | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | carbamic acid-5-phenyl-benzofuran-2-yl-methyl ester | C1(=CC=CC=C1)C=1C=CC2=C(C=C(O2)COC(N)=O)C1 | C16H13NO3
